US06974815B2
4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (500 mg) (1.25 mmol) in DMF (20 ml) was carefully dropped on a suspension of NaH 60% (65 mg) (1.3 eq) in DMF (10 ml) at RT. The reaction mixture was stirred 1 h at RT, then ethyl hexanoate (0.27 ml) (1.2 eq) was added. After 3 h, the reaction mixture was poured on water and extracted with tBuOMe. The organic layer was washed with water, dried over Na2SO4 and concentrated. The residue was purified on SiO2 chromatography (eluent EtOAc/cyclohexane—2/8) to give 6-[7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-hexanoic acid ethyl ester (200 mg) as an oil. 1H NMR (CDCl3): 7.55 (2H, d), 7.25 (2H, d), 7.1 (1H, m), 6.75 (2H, m), 4.95 (1H, m), 4.15 (2H, q), 3.7 (1H, m), 3.1 (1H, m), 3.0 (2H, s), 2.35 (2H, m), 2.2-1.3 (12H, m), 1.23 (3H, t).

reactant | 4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 1.25 mmol, 500 mg | ClC=1C=C(C=C(C1)Cl)N1C(NC2(C1=CCCC2)CC2=CC=C(C#N)C=C2)=O | C21H17Cl2N3O
reactant | NaH | 65 mg, 1.3 eq | [H-].[Na+]
reactant | ethyl hexanoate | 0.27 ml, 1.2 eq | C(CCCCC)(=O)OCC | C8H16O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-[7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-hexanoic acid ethyl ester | 200 mg | C(C)OC(CCCCCC12C(NC(N1C1=CC(=CC(=C1)Cl)Cl)=O)(CCCC2)CC2=CC=C(C=C2)C#N)=O | C29H33Cl2N3O3
